US09255110B2
A mixture of 5-chloro-2,4-dinitrotoluene (1.0 g), 4-(hydroxymethyl)phenylboronic acid (0.84 g), bis(triphenylphosphine)palladium(II) chloride (150 mg) and potassium carbonate (2.0 g) in a mixture of 1,4-dioxane and water (10/1, 11 mL) was heated at 170° C. in a microwave reactor for 10 minutes. The reaction mixture was then cooled and diluted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (acetone/DCM, 3/97) to give 0.6 g of (5′-methyl-2′,4′-dinitro-biphenyl-4-yl)-methanol.

reactant | 5-chloro-2,4-dinitrotoluene | 1.0 g | ClC=1C(=CC(=C(C1)C)[N+](=O)[O-])[N+](=O)[O-] | C7H5ClN2O4
reactant | 4-(hydroxymethyl)phenylboronic acid | 0.84 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 11 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 150 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (5′-methyl-2′,4′-dinitro-biphenyl-4-yl)-methanol | 0.6 g | CC=1C(=CC(=C(C1)C1=CC=C(C=C1)CO)[N+](=O)[O-])[N+](=O)[O-] | C14H12N2O5
